US06136978
To a flame dried flask was added (4,4-dibromo-but-3-enyl)trimethylsilane (3.43 g, 12 mmol). Dry THF (150 mL) was added and the mixture was cooled to -78° C. BuLi 1.6N in hexanes (24 mmol, 15 mL) was added and the mixture was stirred 1 h at -78° C., warmed to 22° C., and stirred for an additional 1 h. Finally, paraformaldehyde (1.4 g) was added and the mixture was refluxed. After 3.5 h the reaction was cooled to 22° C. and sat. NH4Cl (50 mL) was added. The contents of the flask were transferred to a separatory funnel and extracted with ether (3×200 mL). The organic layer was dried (Na2SO4), filtered and evaporated to give a crude yellow oil. Flash chromatography on silica gel (pentane/ether 5:1) afforded 1.57 g (84%) of 5-trimethylsilanylpent-2-yn-1-ol: IR (neat, cm-1) 3350, 2953, 2219, 1436, 1412, 1318, 1249, 1178, 1124, 1015, 905, 853; 1H NMR (300 MHz, CDCl3) δ-0.003 (s, 9H), 0.76 (t, J=8 Hz 2H), 1.75 (s, 1H), 2.20-2.24 (m, 2H), 4.21 (br s, 2H); 13C NMR (75 MHz, CDCl3) δ-1.3, 13.8, 16.4, 51.7, 78.2, 88.9; HRMS (EI) m/z calcd for C7H13OSi (M-CH3) 141.0736, found 141.0733 LRMS (EI) m/z 141 (M-CH3), 123, 113, 103, 97, 91, 85, 75, 66, 59.

reactant | (4,4-dibromo-but-3-enyl)trimethylsilane | 12 mmol, 3.43 g | BrC(=CCC[Si](C)(C)C)Br | C7H14Br2Si
reactant | BuLi | 1.6N | [Li]CCCC
reactant | paraformaldehyde | 1.4 g | C=O | CH2O
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 5-trimethylsilanylpent-2-yn-1-ol | 1.57 g, 84% | C[Si](CCC#CCO)(C)C | C8H16OSi
